US06008230
A mixture of 3-acetoxymethyl-8-(2,6-dichlorobenzoylamino)quinoline (25.9 mg), 1N sodium hydroxide solution (0.24 ml) in dioxane and dimethylformamide (4 drops) was stirred for 2 hours at ambient temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethyl acetate-n-hexane to give 8-(2,6-dichlorobenzoylamino)-3-hydroxymethylquinoline (20 mg).

reactant | 3-acetoxymethyl-8-(2,6-dichlorobenzoylamino)quinoline | 25.9 mg | C(C)(=O)OCC=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H14Cl2N2O3
reactant | sodium hydroxide | 1N, 0.24 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-3-hydroxymethylquinoline | 20 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)CO)C(=CC=C1)Cl | C17H12Cl2N2O2
